US09328110B2
The general method described in Step 7 of Example 1 was used to react 4-(1H-imidazo[4,5-c]quinolin-1-yl)butyraldehyde (7.94 g, 33.2 mmol) with phenylmagnesium bromide (33.2 mL of a 1 M solution in THF, 33.2 mmol) to provide 4-(1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-ol (7.2 g) as an off-white solid that was used directly in the next step without further purification.

reactant | 4-(1H-imidazo[4,5-c]quinolin-1-yl)butyraldehyde | 33.2 mmol, 7.94 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCCC=O | C14H13N3O
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | 4-(1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-ol | 7.2 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCCC(O)C2=CC=CC=C2 | C20H19N3O
